US07135466B2
Cyclohexyl N-{2-chloro-4-[(6,7-dimethoxy-4-quinazolinyl)oxy]phenyl}-N-methylcarbamate
Dimethylformamide (5 ml) was added to sodium hydride (12 mg), and cyclohexyl N-{2-chloro-4-[(6,7-dimethoxy-4-quinazolinyl)oxy]phenyl}carbamate (70 mg) was added to the mixture. Subsequently, a dimethylformamide solution (2 ml) of methyl iodide (43 mg) was added thereto, and the mixture was stirred at room temperature for 10 min. Water was added to stop the reaction, and the reaction solution was then extracted with ethyl acetate, followed by washing with water and saturated brine in that order. The extract was dried over sodium sulfate and was then concentrated. The residue was purified on a column using chloroform/methanol to give the title compound (70 mg, yield 99%).

reactant | Dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
reactant | sodium hydride | 12 mg | [H-].[Na+]
reactant | cyclohexyl N-{2-chloro-4-[(6,7-dimethoxy-4-quinazolinyl)oxy]phenyl}carbamate | 70 mg | ClC1=C(C=CC(=C1)OC1=NC=NC2=CC(=C(C=C12)OC)OC)NC(OC1CCCCC1)=O | C23H24ClN3O5
reactant | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
reactant | methyl iodide | 43 mg | CI | CH3I
solvent | Water | O | H2O
product | Cyclohexyl N-{2-chloro-4-[(6,7-dimethoxy-4-quinazolinyl)oxy]phenyl}-N-methylcarbamate | 70 mg, yield 99% | ClC1=C(C=CC(=C1)OC1=NC=NC2=CC(=C(C=C12)OC)OC)N(C(OC1CCCCC1)=O)C | C24H26ClN3O5
